US07632857B2
[2-Fluoro-4-(2-methoxy-pyrimidin-5-yl)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure SS starting from (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 2-Methoxy-5-pyrimidine boronic acid. MS (M+H) 385.2

reactant | (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H20BrFN2O
reactant | 2-Methoxy-5-pyrimidine boronic acid | COC1=NC=C(C=N1)B(O)O | C5H7BN2O3
product | [2-Fluoro-4-(2-methoxy-pyrimidin-5-yl)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=C(C=CC(=C1)C=1C=NC(=NC1)OC)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C21H25FN4O2
